US04180583
4-(Diphenylmethyl)-1-[4-(p-fluorophenyl)-3-butenyl]-piperidine hydrochloride hemihydrate
A mixture of 24 g (0.057 mole) of 4-(diphenylmethyl)-α-(p-fluorophenyl)-1-piperidinebutanol, 500 ml of 37% HCl, 100 ml of butanone and 200 ml of isopropyl alcohol was heated to reflux under an atmosphere of nitrogen for 18 hours. The solvent and excess acid were removed under vacuum and the residue was dissolved in toluene. Ether was added to the toluene solution, and an oily precipitate formed. The toluene and ether were decanted, and the precipitate was recrystallized from ethyl acetate to give the desired product, M.P. 143°-148° C.

reactant | 4-(diphenylmethyl)-α-(p-fluorophenyl)-1-piperidinebutanol | 0.057 mole, 24 g | C1(=CC=CC=C1)C(C1CCN(CC1)CCCC(O)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C28H32FNO
reactant | HCl | 500 ml | Cl | ClH
reactant | butanone | 100 ml | CC(CC)=O | C4H8O
solvent | isopropyl alcohol | 200 ml | C(C)(C)O | C3H8O
product | 4-(Diphenylmethyl)-1-[4-(p-fluorophenyl)-3-butenyl]-piperidine hydrochloride hemihydrate | O.Cl.C1(=CC=CC=C1)C(C1CCN(CC1)CCC=CC1=CC=C(C=C1)F)C1=CC=CC=C1.C1(=CC=CC=C1)C(C1=CC=CC=C1)C1CCN(CC1)CCC=CC1=CC=C(C=C1)F.Cl | InChI=1S/2C28H30FN.2ClH.H2O/c2*29-27-16-14-23(15-17-27)9-7-8-20-30-21-18-26(19-22-30)28(24-10-3-1-4-11-24)25-12-5-2-6-13-25;;;/h2*1-7,9-17,26,28H,8,18-22H2;2*1H;1H2
